data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3598,4106,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([N+:12]#[C:13][C:14]#[N:15])[C:16](=[O:17])[NH:18][CH3:19]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:13]([C:14]#[N:15])=[N:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:16](=[O:17])[NH:18][CH3:19],water,298.15,14.412393851093311,-37.06880995891751
3146,3548,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[CH:9]=[N+:10]([CH3:11])[N-:12][C:13]([CH3:14])=[O:15]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[N:12]([C:13]([CH3:14])=[O:15])[N:10]([CH3:11])[CH:9]1[C:7]([O:6][CH3:5])=[O:8],water,298.15,25.946880892504826,-24.69004770814629
4052,4641,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([CH3:12])[N+:13]([CH3:14])=[C:15]([C:16]#[N:17])[C:18](=[O:19])[O:20][CH3:21]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([CH3:12])[N:13]([CH3:14])[C:15]1([C:16]#[N:17])[C:18](=[O:19])[O:20][CH3:21],water,298.15,32.845679436014194,-10.487404727581287
4096,4689,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11](=[O+:12][C-:13]([CH3:14])[C:15]([CH3:16])=[O:17])[C:18](=[O:19])[NH:20][CH3:21]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:13]([CH3:14])([C:15]([CH3:16])=[O:17])[O:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:18](=[O:19])[NH:20][CH3:21],water,298.15,16.793104717624107,-36.4990477170684
3982,4557,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17]#[N:18])[C:19]([CH3:20])=[O:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]([C:17]#[N:18])=[N:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:19]([CH3:20])=[O:21],water,298.15,12.146173045846028,-37.002479592303736
1827,2025,[CH3:14][O:15][C:16](=[O:17])[c:18]1[o:19][c:20](=[O:21])[c-:22]([C:23]#[N:24])[n+:25]1[CH3:26].[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][CH:8]([Br:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([CH:8]([Br:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[C:18]1([C:16]([O:15][CH3:14])=[O:17])[O:19][C:20](=[O:21])[C:22]2([C:23]#[N:24])[N:25]1[CH3:26],water,298.15,18.621824684812808,-14.79053673428591
3272,3698,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][N-:12][NH+:13]=[C:14]([CH3:15])[CH3:16]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[N:12]([CH3:11])[NH:13][C:14]2([CH3:15])[CH3:16],water,298.15,26.634683067795176,-15.625478780899506
2642,2929,[CH3:1][C:2]1([C:3]([F:4])([F:5])[F:6])[C:7]#[C:8][C:9]([C:10]#[N:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1.[cH:18]1[cH:19][cH:20][c:21]([N-:22][NH+:23]=[C:24]([c:25]2[cH:26][cH:27][cH:28][cH:29][cH:30]2)[c:31]2[cH:32][cH:33][cH:34][cH:35][cH:36]2)[cH:37][cH:38]1>>[CH3:1][C:2]1([C:3]([F:4])([F:5])[F:6])[C:7]2=[C:8]([C:9]([C:10]#[N:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[N:22]([c:21]1[cH:20][cH:19][cH:18][cH:38][cH:37]1)[NH:23][C:24]2([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1,water,298.15,19.60351106700818,-18.363216640080235
2229,2471,[CH3:20][NH:21][C:22](=[O:23])[c-:24]1[o+:25][c:26]([C:27](=[O:28])[O:29][CH3:30])[o:31][c:32]1=[O:33].[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[C:6]([c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)=[C:13]2[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH:1]12[CH:2]([CH:3]3[O:4][CH:5]1[C:6]([c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)=[C:13]3[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[C:24]1([C:22]([NH:21][CH3:20])=[O:23])[O:25][C:26]2([C:27](=[O:28])[O:29][CH3:30])[O:31][C:32]1=[O:33],water,298.15,9.557117941648864,-39.94584488964654
1622,1793,[CH3:9][O:10][C:11](=[O:12])[C-:13]([CH3:14])[O+:15]=[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[F:1][C:2]1=[CH:3][CH:4]2[CH2:5][CH2:6][CH:7]1[CH2:8]2>>[F:1][C:2]12[CH:3]([CH:4]3[CH2:5][CH2:6][CH:7]1[CH2:8]3)[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[O:15][C:13]2([C:11]([O:10][CH3:9])=[O:12])[CH3:14],water,298.15,15.268005893835898,-51.57723660990105
940,1020,[CH3:15][c-:16]1[c:17](=[O:18])[o:19][c:20]([C:21]#[N:22])[n+:23]1[CH3:24].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:20]1([C:21]#[N:22])[O:19][C:17](=[O:18])[C:16]2([CH3:15])[N:23]1[CH3:24],water,298.15,22.784435079998413,-3.31763747914618
1130,1229,[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([C:17]([CH3:18])=[O:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][C:2](=[O:3])[C:4]#[C:5][C:6]([F:7])([F:8])[F:9]>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])=[N:15][C:16]1([C:17]([CH3:18])=[O:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,5.356155572050186,-60.71355812489386
